*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:58:07 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "MX2X4"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  MX2X4 A B S0 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 4.83191e-16
*|P (A X 0 0.9320 1.7690)
*|I (MX29/M0#g MX29/M0 g X 0 0.9650 0.8900)
*|I (MX31/M0#g MX31/M0 g X 0 0.9650 3.0975)
*|S (A#7 0.8550 1.6350)
*|S (A#8 0.9050 1.6350)
*|S (A#11 0.9185 1.6350)
*|S (A#12 0.9185 1.7690)
C1 MX31/M0#g VSS 6.21426e-17
C2 MX29/M0#g VSS 4.61476e-17
C3 A#12 VSS 1.79273e-16
C4 A#11 VSS 1.25427e-16
C5 A#7 VSS 7.02017e-17
Rg1 MX31/M0#g A#7 459.523376 $W=0.15
Rg2 A#7 MX29/M0#g 216.594559 $W=0.15
Rf3 A#8 A#7 18.764706 $W=0.17
Re4 A#8 A#11 152.001358 $W=1.24
Re5 A#12 A 0.001361 $W=1.24
Re6 A#11 A#12 0.064423 $W=0.26
*
*|NET B 5.71731e-16
*|P (B X 0 3.2320 1.8490)
*|I (MX27/M0#g MX27/M0 g X 0 2.2550 0.8900)
*|I (MM1#g MM1 g X 0 2.2550 3.0975)
*|S (B#7 2.2550 1.6250)
*|S (B#8 3.2200 1.6250)
C6 MM1#g VSS 6.18245e-17
C7 MX27/M0#g VSS 4.64337e-17
C8 B#8 VSS 1.12583e-16
C9 B#7 VSS 1.28552e-16
C10 B VSS 2.22339e-16
Rg7 MM1#g B#7 454.322418 $W=0.15
Rg8 B#7 MX27/M0#g 217.339081 $W=0.15
Rf9 B#8 B#7 87.658829 $W=0.17
Re10 B B#8 152.107697 $W=0.26
*
*|NET S0 8.42722e-16
*|P (S0 X 0 1.3920 1.9990)
*|I (MX35/M0#g MX35/M0 g X 0 0.4750 0.8025)
*|I (MX30/M0#g MX30/M0 g X 0 1.8250 0.8900)
*|I (MX33/M0#g MX33/M0 g X 0 0.4750 3.2375)
*|I (MM0#g MM0 g X 0 1.3950 3.0975)
*|S (S0#13 0.3750 1.8600)
*|S (S0#14 1.3350 2.0300)
*|S (S0#15 1.3800 2.0300)
*|S (S0#16 1.3350 2.0300)
C11 MM0#g VSS 6.45187e-17
C12 MX33/M0#g VSS 5.81162e-17
C13 MX30/M0#g VSS 5.12273e-17
C14 MX35/M0#g VSS 4.27738e-17
C15 S0#13 VSS 1.59015e-16
C16 S0#14 VSS 1.40876e-16
C17 S0 VSS 3.26196e-16
Rg11 MX33/M0#g S0#13 437.394073 $W=0.15
Rg12 S0#13 MX35/M0#g 334.567383 $W=0.15
Rg13 MX30/M0#g S0#14 467.157410 $W=0.15
Rg14 S0#14 MM0#g 326.456696 $W=0.15
Rf15 S0#15 S0#16 3.388236 $W=0.17
Rf16 S0#16 S0#13 94.434082 $W=0.17
Rf17 S0#14 S0#16 15.000000 $W=0.0289
Re18 S0 S0#15 152.014908 $W=0.26
*
*|NET Y 1.34526e-15
*|P (Y X 0 4.1520 2.0640)
*|I (MX34/M0#d MX34/M0 d X 0 2.8205 0.9700)
*|I (MX34/M1#s MX34/M1 s X 0 3.0995 0.9700)
*|I (MX34/M2#d MX34/M2 d X 0 3.6805 0.9700)
*|I (MX34/M3#s MX34/M3 s X 0 3.9595 0.9700)
*|I (MX32/M0#d MX32/M0 d X 0 2.8205 2.9850)
*|I (MX32/M1#s MX32/M1 s X 0 3.0995 2.9850)
*|I (MX32/M2#d MX32/M2 d X 0 3.6805 2.9850)
*|I (MX32/M3#s MX32/M3 s X 0 3.9595 2.9850)
*|S (Y#1 2.9600 3.3800)
*|S (Y#4 2.9600 0.7550)
*|S (Y#5 3.8200 3.3800)
*|S (Y#8 3.8200 0.7550)
C18 MX32/M2#d VSS 1.69297e-16
C19 MX32/M0#d VSS 1.83908e-16
C20 MX34/M0#d VSS 1.00759e-19
C21 Y#4 VSS 2.48268e-16
C22 Y#1 VSS 1.03867e-16
C23 Y#8 VSS 3.02424e-16
C24 Y#5 VSS 1.8779e-16
C25 Y VSS 1.49608e-16
Rf19 Y#1 MX32/M0#d 34.741177 $W=0.17
Rf20 MX34/M0#d Y#4 23.688236 $W=0.17
Rf21 Y#5 MX32/M2#d 186.741180 $W=0.17
Rf22 MX34/M2#d Y#8 175.688232 $W=0.17
Re23 Y#5 Y 0.714989 $W=0.26
Re24 Y Y#8 0.711624 $W=0.26
Re25 Y#8 Y#4 152.370697 $W=0.29
Re26 Y#5 Y#1 152.370697 $W=0.29
Rmw27 MX34/M1#s MX34/M0#d 0.001000 $W=1000000
Rmw28 MX34/M3#s MX34/M2#d 0.001000 $W=1000000
Rmw29 MX32/M1#s MX32/M0#d 0.001000 $W=1000000
Rmw30 MX32/M3#s MX32/M2#d 0.001000 $W=1000000
*
*|NET 6 1.17538e-15
*|I (MX36/M0#g MX36/M0 g X 0 1.3950 0.8900)
*|I (MX35/M0#d MX35/M0 d X 0 0.3995 0.8025)
*|I (MX33/M0#d MX33/M0 d X 0 0.3995 3.2375)
*|I (MX28/M0#g MX28/M0 g X 0 1.8250 3.0975)
*|S (6 1.8250 3.0975)
*|S (6#7 1.3950 1.4650)
*|S (6#8 1.8250 2.3700)
*|S (6#10 0.2600 3.0900)
*|S (6#11 0.2600 0.8500)
*|S (6#15 0.2600 2.3700)
C26 MX35/M0#d VSS 4.73935e-17
C27 MX36/M0#g VSS 4.91444e-17
C28 6#11 VSS 1.28392e-16
C29 6#15 VSS 2.97327e-16
C30 6#10 VSS 1.27903e-16
C31 6#7 VSS 1.9922e-16
C32 6#8 VSS 2.74033e-16
C33 6 VSS 5.19662e-17
Rg31 MX36/M0#g 6#7 165.925751 $W=0.15
Rg32 6 6#8 229.929077 $W=0.15
Rf33 MX33/M0#d 6#10 25.917646 $W=0.17
Rf34 6#11 MX35/M0#d 18.764706 $W=0.17
Rf35 6#7 6#8 107.821373 $W=0.17
Rf36 6#8 6#15 269.835297 $W=0.17
Re37 6#10 6#15 152.391312 $W=0.23
Re38 6#15 6#11 152.826080 $W=0.23
Rmw39 MX28/M0#g 6 0.001000 $W=1000000
*
*|NET 11 1.61785e-15
*|I (MX36/M0#d MX36/M0 d X 0 1.4705 0.8900)
*|I (MX34/M0#g MX34/M0 g X 0 2.7450 0.9700)
*|I (MX34/M1#g MX34/M1 g X 0 3.1750 0.9700)
*|I (MX34/M2#g MX34/M2 g X 0 3.6050 0.9700)
*|I (MX34/M3#g MX34/M3 g X 0 4.0350 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 1.7495 0.8900)
*|I (MX32/M0#g MX32/M0 g X 0 2.7450 2.9850)
*|I (MX32/M1#g MX32/M1 g X 0 3.1750 2.9850)
*|I (MX32/M2#g MX32/M2 g X 0 3.6050 2.9850)
*|I (MX32/M3#g MX32/M3 g X 0 4.0350 2.9850)
*|I (MX28/M0#d MX28/M0 d X 0 1.7495 3.0975)
*|I (MM0#d MM0 d X 0 1.4705 3.0975)
*|S (11#25 4.0350 2.1450)
*|S (11#26 3.6050 2.1450)
*|S (11 3.3900 2.1450)
*|S (11#28 3.1750 2.1450)
*|S (11#29 2.7450 2.1450)
*|S (11#30 1.6100 3.1700)
*|S (11#33 1.6100 0.8500)
*|S (11#35 2.3250 2.1450)
*|S (11#37 2.1200 2.1450)
C34 MX28/M0#d VSS 1.54503e-16
C35 MX32/M3#g VSS 6.83377e-17
C36 MX32/M2#g VSS 5.55508e-17
C37 MX32/M1#g VSS 5.98546e-17
C38 MX32/M0#g VSS 6.63512e-17
C39 MX34/M3#g VSS 5.11409e-17
C40 MX34/M2#g VSS 4.65568e-17
C41 MX34/M1#g VSS 5.23317e-17
C42 MX34/M0#g VSS 5.82393e-17
C43 11#37 VSS 2.34383e-16
C44 11#33 VSS 3.17419e-16
C45 11#30 VSS 1.66122e-16
C46 11#35 VSS 6.5423e-17
C47 11 VSS 2.21633e-16
Rg40 MX32/M3#g 11#25 265.943329 $W=0.15
Rg41 11#25 11#26 62.011234 $W=0.27
Rg42 11#26 11 36.929379 $W=0.27
Rg43 11 11#28 36.929379 $W=0.27
Rg44 11#28 11#29 62.011227 $W=0.27
Rg45 11#29 MX34/M0#g 373.589996 $W=0.15
Rg46 11#25 MX34/M3#g 373.589996 $W=0.15
Rg47 11#26 MX34/M2#g 371.033081 $W=0.15
Rg48 11#26 MX32/M2#g 263.386414 $W=0.15
Rg49 11#28 MX34/M1#g 371.033081 $W=0.15
Rg50 11#28 MX32/M1#g 263.386414 $W=0.15
Rg51 11#29 MX32/M0#g 265.943329 $W=0.15
Rf52 11#30 MX28/M0#d 13.147058 $W=0.17
Rf53 MX36/M0#d 11#33 18.011765 $W=0.17
Rf54 11 11#35 85.188232 $W=0.17
Re55 11#35 11#37 152.060272 $W=0.23
Re56 11#37 11#33 152.865875 $W=0.23
Re57 11#37 11#30 152.714798 $W=0.23
Rmw58 MX30/M0#d MX36/M0#d 0.001000 $W=1000000
Rmw59 MM0#d MX28/M0#d 0.001000 $W=1000000
*
*|NET 16 1.31586e-16
*|I (MX36/M0#s MX36/M0 s X 0 1.3195 0.8900)
*|I (MX29/M0#d MX29/M0 d X 0 1.0405 0.8900)
*|S (16 1.1800 0.8900)
C48 16 VSS 1.31586e-16
Rmw60 MX36/M0#s 16 0.001000 $W=1000000
Rmw61 MX29/M0#d 16 0.001000 $W=1000000
*
*|NET 18 1.86028e-16
*|I (MX31/M0#d MX31/M0 d X 0 1.0405 3.0975)
*|I (MM0#s MM0 s X 0 1.3195 3.0975)
*|S (18 1.1800 3.0950)
C49 18 VSS 1.86028e-16
Rmw62 MX31/M0#d 18 0.001000 $W=1000000
Rmw63 MM0#s 18 0.001000 $W=1000000
*
*|NET 21 1.18792e-16
*|I (MX30/M0#s MX30/M0 s X 0 1.9005 0.8900)
*|I (MX27/M0#d MX27/M0 d X 0 2.1795 0.8900)
*|S (21 2.0400 0.8900)
C50 21 VSS 1.18792e-16
Rmw64 MX30/M0#s 21 0.001000 $W=1000000
Rmw65 MX27/M0#d 21 0.001000 $W=1000000
*
*|NET 23 1.752e-16
*|I (MX28/M0#s MX28/M0 s X 0 1.9005 3.0975)
*|I (MM1#s MM1 s X 0 2.1795 3.0975)
*|S (23 2.0400 3.0950)
C51 23 VSS 1.752e-16
Rmw66 MX28/M0#s 23 0.001000 $W=1000000
Rmw67 MM1#s 23 0.001000 $W=1000000
*
*Instance Section
*
MX36/M0	MX36/M0#d	MX36/M0#g	MX36/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=6e-07
MX35/M0	MX35/M0#d	MX35/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX34/M0	MX34/M0#d	MX34/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX34/M1	VSS	MX34/M1#g	MX34/M1#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX34/M2	MX34/M2#d	MX34/M2#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX34/M3	VSS	MX34/M3#g	MX34/M3#s	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=6e-07
MX29/M0	MX29/M0#d	MX29/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=6e-07
MX27/M0	MX27/M0#d	MX27/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=6e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M1	VDD	MX32/M1#g	MX32/M1#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M2	MX32/M2#d	MX32/M2#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX32/M3	VDD	MX32/M3#g	MX32/M3#s	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX31/M0	MX31/M0#d	MX31/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=9.05e-07
MX28/M0	MX28/M0#d	MX28/M0#g	MX28/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=9.05e-07
MM0	MM0#d	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=9.05e-07
MM1	VDD	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=9.05e-07
.ENDS
