*
*|DSPF 1.5
*
*|DATE "Mon Jan 15 09:59:22 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "MX4X1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  MX4X1 A B C D S0 S1 Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 5.73261e-16
*|P (A X 0 0.9320 2.4440)
*|I (MX61/M0#g MX61/M0 g X 0 0.9050 0.8025)
*|I (MX69/M0#g MX69/M0 g X 0 0.9050 3.2375)
*|S (A#7 0.8450 2.3100)
*|S (A#8 0.9150 2.3100)
C1 MX69/M0#g VSS 4.76814e-17
C2 MX61/M0#g VSS 4.52825e-17
C3 A#8 VSS 1.31329e-16
C4 A#7 VSS 1.52416e-16
C5 A VSS 1.96552e-16
Rg1 MX69/M0#g A#7 283.919281 $W=0.15
Rg2 A#7 MX61/M0#g 470.292603 $W=0.15
Rf3 A#8 A#7 20.270588 $W=0.17
Re4 A A#8 152.064423 $W=0.26
*
*|NET B 5.74211e-16
*|P (B X 0 2.3120 3.0290)
*|I (MX60/M0#g MX60/M0 g X 0 2.1950 0.8025)
*|I (MM0#g MM0 g X 0 2.1950 3.2375)
*|S (B#7 2.1950 2.6500)
*|S (B#8 2.3000 2.6500)
C6 MM0#g VSS 3.83291e-17
C7 MX60/M0#g VSS 5.02227e-17
C8 B#8 VSS 1.2901e-16
C9 B#7 VSS 1.61663e-16
C10 B VSS 1.94987e-16
Rg5 MM0#g B#7 169.942413 $W=0.15
Rg6 B#7 MX60/M0#g 574.822449 $W=0.15
Rf7 B#8 B#7 22.905882 $W=0.17
Re8 B B#8 152.182205 $W=0.26
*
*|NET C 5.87106e-16
*|P (C X 0 2.3120 1.5990)
*|I (MX62/M0#g MX62/M0 g X 0 2.6250 0.8025)
*|I (MX70/M0#g MX70/M0 g X 0 2.6250 3.2375)
*|S (C#7 2.6250 1.6300)
*|S (C#9 2.3000 1.6300)
C11 MX70/M0#g VSS 5.33734e-17
C12 MX62/M0#g VSS 4.60129e-17
C13 C#9 VSS 8.00189e-17
C14 C#7 VSS 9.21531e-17
C15 C VSS 3.15547e-16
Rg9 MX70/M0#g C#7 497.702423 $W=0.15
Rg10 C#7 MX62/M0#g 247.062408 $W=0.15
Rf11 C#7 C#9 39.470589 $W=0.17
Re12 C C#9 152.014908 $W=0.26
*
*|NET D 6.38641e-16
*|P (D X 0 3.6920 2.4090)
*|I (MX63/M0#g MX63/M0 g X 0 3.9150 0.8025)
*|I (MX71/M0#g MX71/M0 g X 0 3.9150 3.2375)
*|S (D#7 3.9150 2.6500)
*|S (D#9 3.6800 2.6500)
C16 MX71/M0#g VSS 3.82379e-17
C17 MX63/M0#g VSS 4.46544e-17
C18 D#9 VSS 7.62194e-17
C19 D#7 VSS 1.13742e-16
C20 D VSS 3.65788e-16
Rg13 MX71/M0#g D#7 169.942413 $W=0.15
Rg14 D#7 MX63/M0#g 574.822449 $W=0.15
Rf15 D#7 D#9 32.694118 $W=0.17
Re16 D D#9 152.115860 $W=0.26
*
*|NET S0 2.3001e-15
*|P (S0 X 0 1.3920 2.4190)
*|I (MX59/M0#g MX59/M0 g X 0 3.4850 0.8025)
*|I (MX58/M0#g MX58/M0 g X 0 1.7650 0.8025)
*|I (MX56/M0#g MX56/M0 g X 0 0.4750 0.8025)
*|I (MX72/M0#g MX72/M0 g X 0 0.4750 3.2375)
*|I (MX68/M0#g MX68/M0 g X 0 3.0550 3.2375)
*|I (MX67/M0#g MX67/M0 g X 0 1.3350 3.2375)
*|S (S0#19 0.3550 2.6500)
*|S (S0#20 0.4750 1.2900)
*|S (S0#21 1.3350 2.6500)
*|S (S0#22 1.7650 1.2900)
*|S (S0#23 3.0550 2.6500)
*|S (S0#24 3.4850 1.2900)
*|S (S0#25 1.3800 2.6500)
*|S (S0#29 2.8400 2.6500)
*|S (S0#31 2.8400 1.2900)
*|S (S0#33 1.3800 1.2950)
C21 MX67/M0#g VSS 4.76856e-17
C22 MX68/M0#g VSS 5.14404e-17
C23 MX72/M0#g VSS 5.15285e-17
C24 MX56/M0#g VSS 4.41067e-17
C25 MX58/M0#g VSS 3.9605e-17
C26 MX59/M0#g VSS 4.61075e-17
C27 S0#33 VSS 3.00045e-16
C28 S0#25 VSS 3.47871e-16
C29 S0#31 VSS 3.60176e-16
C30 S0#29 VSS 2.91855e-16
C31 S0#19 VSS 1.53767e-16
C32 S0#20 VSS 1.09949e-16
C33 S0#21 VSS 1.44949e-16
C34 S0#22 VSS 1.30128e-16
C35 S0#23 VSS 7.02962e-17
C36 S0#24 VSS 1.10585e-16
Rg17 MX72/M0#g S0#19 167.730179 $W=0.15
Rg18 S0#19 S0#20 405.629517 $W=0.15
Rg19 S0#20 MX56/M0#g 137.809082 $W=0.15
Rg20 MX67/M0#g S0#21 184.942413 $W=0.15
Rg21 MX58/M0#g S0#22 152.809082 $W=0.15
Rg22 MX68/M0#g S0#23 169.942413 $W=0.15
Rg23 MX59/M0#g S0#24 137.809082 $W=0.15
Rf24 S0#25 S0#21 3.388236 $W=0.17
Rf25 S0#21 S0#19 88.788231 $W=0.17
Rf26 S0#23 S0#29 31.188236 $W=0.17
Rf27 S0#24 S0#31 63.564705 $W=0.17
Rf28 S0#31 S0#22 80.941177 $W=0.17
Rf29 S0#22 S0#33 28.633278 $W=0.17
Rf30 S0#33 S0#20 82.786217 $W=0.17
Re31 S0 S0#33 152.540390 $W=0.26
Re32 S0 S0#25 152.111053 $W=0.26
Re33 S0#29 S0#31 304.739136 $W=0.23
*
*|NET S1 7.51641e-16
*|P (S1 X 0 4.1520 1.4890)
*|I (MX57/M0#g MX57/M0 g X 0 4.3450 0.8025)
*|I (MX53/M0#g MX53/M0 g X 0 5.7250 0.8025)
*|I (MX73/M0#g MX73/M0 g X 0 4.3450 3.2375)
*|I (MX54/M0#g MX54/M0 g X 0 5.2950 3.2375)
*|S (S1#13 5.2950 2.0900)
*|S (S1#14 4.3450 2.0900)
*|S (S1#15 4.3450 1.9700)
*|S (S1#16 4.3450 1.2900)
*|S (S1#18 4.1250 1.9700)
*|S (S1#20 4.1250 1.2900)
C37 MX54/M0#g VSS 5.62111e-17
C38 MX73/M0#g VSS 4.96238e-17
C39 MX53/M0#g VSS 5.39267e-17
C40 MX57/M0#g VSS 4.60103e-17
C41 S1#20 VSS 4.26806e-17
C42 S1#18 VSS 1.93135e-16
C43 S1#16 VSS 5.99824e-17
C44 S1#15 VSS 6.86753e-17
C45 S1 VSS 1.81396e-16
Rg34 MX53/M0#g S1#13 507.506500 $W=0.15
Rg35 S1#13 S1#14 248.508362 $W=0.15
Rg36 S1#14 S1#15 32.526371 $W=0.27
Rg37 S1#15 S1#16 179.775162 $W=0.15
Rg38 S1#16 MX57/M0#g 137.809082 $W=0.15
Rg39 S1#13 MX54/M0#g 366.885010 $W=0.15
Rg40 S1#14 MX73/M0#g 373.846558 $W=0.15
Rf41 S1#15 S1#18 31.564707 $W=0.17
Rf42 S1#16 S1#20 31.564707 $W=0.17
Re43 S1 S1#20 152.095673 $W=0.26
Re44 S1 S1#18 152.231247 $W=0.26
*
*|NET Y 5.43252e-16
*|P (Y X 0 6.9120 2.1990)
*|I (MX74/M0#d MX74/M0 d X 0 6.7505 0.9700)
*|I (MX75/M0#d MX75/M0 d X 0 6.7505 2.9850)
*|S (Y#2 6.8900 2.9450)
*|S (Y#3 6.8900 1.0050)
C46 MX74/M0#d VSS 7.08787e-17
C47 Y#3 VSS 1.48287e-16
C48 Y#2 VSS 2.49662e-16
C49 Y VSS 7.44252e-17
Rf45 MX75/M0#d Y#2 5.616868 $W=0.83
Rf46 Y#3 MX74/M0#d 8.423712 $W=0.485
Re47 Y Y#3 76.574036 $W=0.26
Re48 Y Y#2 51.025322 $W=0.26
*
*|NET 1 1.30405e-15
*|I (MX65/M0#g MX65/M0 g X 0 3.0550 0.8025)
*|I (MX64/M0#g MX64/M0 g X 0 1.3350 0.8025)
*|I (MX56/M0#d MX56/M0 d X 0 0.3995 0.8025)
*|I (MX77/M0#g MX77/M0 g X 0 3.4850 3.2375)
*|I (MX76/M0#g MX76/M0 g X 0 1.7650 3.2375)
*|I (MX72/M0#d MX72/M0 d X 0 0.3995 3.2375)
*|S (1#13 1.5500 1.9700)
*|S (1 3.2700 1.9700)
*|S (1#16 0.2600 3.0900)
*|S (1#17 0.2600 0.8500)
*|S (1#20 1.5500 1.9700)
*|S (1#21 0.2600 1.9700)
C50 MX76/M0#g VSS 5.12502e-17
C51 MX77/M0#g VSS 5.1239e-17
C52 MX56/M0#d VSS 5.72717e-17
C53 MX64/M0#g VSS 4.99594e-17
C54 MX65/M0#g VSS 5.18471e-17
C55 1#17 VSS 1.15159e-16
C56 1#21 VSS 2.26247e-16
C57 1#16 VSS 2.1603e-16
C58 1#13 VSS 2.63644e-16
C59 1 VSS 2.21398e-16
Rg49 MX76/M0#g 1#13 418.796082 $W=0.15
Rg50 1#13 MX64/M0#g 386.662750 $W=0.15
Rg51 MX77/M0#g 1 418.796082 $W=0.15
Rg52 1 MX65/M0#g 386.662750 $W=0.15
Rf53 MX72/M0#d 1#16 25.917646 $W=0.17
Rf54 1#17 MX56/M0#d 18.764706 $W=0.17
Rf55 1 1#20 144.505890 $W=0.17
Rf56 1#20 1#21 249.129410 $W=0.17
Rf57 1#13 1#20 15.000000 $W=0.0289
Re58 1#16 1#21 152.608688 $W=0.23
Re59 1#21 1#17 152.608688 $W=0.23
*
*|NET 8 1.22742e-15
*|I (MX66/M0#g MX66/M0 g X 0 5.2950 0.8025)
*|I (MX57/M0#d MX57/M0 d X 0 4.4205 0.8025)
*|I (MX73/M0#d MX73/M0 d X 0 4.4205 3.2375)
*|I (MX55/M0#g MX55/M0 g X 0 5.7250 3.2375)
*|S (8 5.7250 3.2375)
*|S (8#7 4.8650 1.6300)
*|S (8#8 6.1550 1.6300)
*|S (8#10 4.5600 3.0900)
*|S (8#11 4.5600 0.8500)
*|S (8#15 4.5600 1.6300)
C60 MX57/M0#d VSS 7.00042e-17
C61 MX66/M0#g VSS 4.42108e-17
C62 8#11 VSS 1.28887e-16
C63 8#15 VSS 3.06988e-16
C64 8#10 VSS 2.97042e-16
C65 8#7 VSS 1.33967e-16
C66 8#8 VSS 1.94099e-16
C67 8 VSS 5.22228e-17
Rg60 MX66/M0#g 8#7 337.672150 $W=0.15
Rg61 8#8 8 578.780701 $W=0.15
Rf62 MX73/M0#d 8#10 25.917646 $W=0.17
Rf63 8#11 MX57/M0#d 18.764706 $W=0.17
Rf64 8#8 8#7 112.129410 $W=0.17
Rf65 8#7 8#15 174.964706 $W=0.17
Re66 8#10 8#15 152.793472 $W=0.23
Re67 8#15 8#11 152.423920 $W=0.23
Rmw68 MX55/M0#g 8 0.001000 $W=1000000
*
*|NET 9 1.35466e-15
*|I (MX74/M0#g MX74/M0 g X 0 6.6750 0.9700)
*|I (MX66/M0#d MX66/M0 d X 0 5.3705 0.8025)
*|I (MX53/M0#d MX53/M0 d X 0 5.6495 0.8025)
*|I (MX75/M0#g MX75/M0 g X 0 6.6750 2.9850)
*|I (MX55/M0#s MX55/M0 s X 0 5.6495 3.2375)
*|I (MX54/M0#d MX54/M0 d X 0 5.3705 3.2375)
*|S (9 6.6650 1.9700)
*|S (9#9 5.5100 2.9100)
*|S (9#10 5.5100 1.0050)
*|S (9#13 5.5100 1.9700)
C68 MX55/M0#s VSS 9.19867e-19
C69 MX75/M0#g VSS 8.05557e-17
C70 MX66/M0#d VSS 1.2873e-16
C71 MX74/M0#g VSS 6.18772e-17
C72 9#10 VSS 2.35038e-16
C73 9#13 VSS 3.13344e-16
C74 9#9 VSS 4.04935e-16
C75 9 VSS 1.2926e-16
Rg69 MX75/M0#g 9 308.423401 $W=0.15
Rg70 9 MX74/M0#g 303.603394 $W=0.15
Rf71 MX55/M0#s 9#9 39.470589 $W=0.17
Rf72 9#10 MX66/M0#d 30.435293 $W=0.17
Rf73 9 9#13 253.964706 $W=0.17
Re74 9#9 9#13 76.510872 $W=0.23
Re75 9#13 9#10 76.524460 $W=0.23
Rmw76 MX53/M0#d MX66/M0#d 0.001000 $W=1000000
Rmw77 MX54/M0#d MX55/M0#s 0.001000 $W=1000000
*
*|NET 25 2.57754e-15
*|I (MX66/M0#s MX66/M0 s X 0 5.2195 0.8025)
*|I (MX64/M0#d MX64/M0 d X 0 1.4105 0.8025)
*|I (MX58/M0#d MX58/M0 d X 0 1.6895 0.8025)
*|I (MX76/M0#d MX76/M0 d X 0 1.6895 3.2375)
*|I (MX67/M0#d MX67/M0 d X 0 1.4105 3.2375)
*|I (MX54/M0#s MX54/M0 s X 0 5.2195 3.2375)
*|S (25 1.5500 3.3850)
*|S (25#3 1.5500 0.8500)
*|S (25#6 5.0800 3.2350)
*|S (25#7 5.0800 2.9100)
*|S (25#8 1.7650 2.3100)
*|S (25#9 5.0800 1.0050)
C76 MX54/M0#s VSS 8.45588e-20
C77 MX76/M0#d VSS 1.16113e-16
C78 MX64/M0#d VSS 8.9853e-17
C79 MX66/M0#s VSS 1.1858e-16
C80 25#3 VSS 2.58976e-16
C81 25#8 VSS 7.60691e-16
C82 25#9 VSS 2.97761e-16
C83 25#7 VSS 7.42545e-16
C84 25 VSS 1.92937e-16
Rf78 25 MX76/M0#d 26.294117 $W=0.17
Rf79 25#3 MX64/M0#d 18.764706 $W=0.17
Rf80 25#6 25#7 24.470589 $W=0.17
Rf81 25#7 25#8 441.128174 $W=0.17
Rf82 MX54/M0#s 25#6 15.000000 $W=0.17
Rf83 25#9 MX66/M0#s 30.435293 $W=0.17
Re84 25 25#8 152.619598 $W=0.23
Re85 25#8 25#3 152.828842 $W=0.23
Re86 25#7 25#9 153.035324 $W=0.23
Rmw87 MX58/M0#d MX64/M0#d 0.001000 $W=1000000
Rmw88 MX67/M0#d MX76/M0#d 0.001000 $W=1000000
*
*|NET 26 2.1597e-15
*|I (MX65/M0#d MX65/M0 d X 0 3.1305 0.8025)
*|I (MX59/M0#d MX59/M0 d X 0 3.4095 0.8025)
*|I (MX53/M0#s MX53/M0 s X 0 5.8005 0.8025)
*|I (MX77/M0#d MX77/M0 d X 0 3.4095 3.2375)
*|I (MX68/M0#d MX68/M0 d X 0 3.1305 3.2375)
*|I (MX55/M0#d MX55/M0 d X 0 5.8005 3.2375)
*|S (26#2 3.2700 3.0900)
*|S (26#3 3.2700 0.8500)
*|S (26 5.9400 2.9100)
*|S (26#7 5.9400 1.0050)
C85 MX53/M0#s VSS 1.20148e-16
C86 MX65/M0#d VSS 8.6849e-17
C87 26#3 VSS 2.76807e-16
C88 26#2 VSS 7.08298e-16
C89 26#7 VSS 2.57699e-16
C90 26 VSS 7.09897e-16
Rf89 MX77/M0#d 26#2 177.917648 $W=0.17
Rf90 26#3 MX65/M0#d 18.764706 $W=0.17
Rf91 MX55/M0#d 26 115.470589 $W=0.17
Rf92 26#7 MX53/M0#s 30.435293 $W=0.17
Re93 26 26#2 1.873378 $W=0.23
Re94 26#2 26#3 153.217392 $W=0.23
Re95 26 26#7 77.035324 $W=0.23
Rmw96 MX59/M0#d MX65/M0#d 0.001000 $W=1000000
Rmw97 MX68/M0#d MX77/M0#d 0.001000 $W=1000000
*
*|NET 28 1.00048e-16
*|I (MX64/M0#s MX64/M0 s X 0 1.2595 0.8025)
*|I (MX61/M0#d MX61/M0 d X 0 0.9805 0.8025)
*|S (28 1.1200 0.8000)
C91 28 VSS 1.00048e-16
Rmw98 MX64/M0#s 28 0.001000 $W=1000000
Rmw99 MX61/M0#d 28 0.001000 $W=1000000
*
*|NET 30 1.47751e-16
*|I (MX69/M0#d MX69/M0 d X 0 0.9805 3.2375)
*|I (MX67/M0#s MX67/M0 s X 0 1.2595 3.2375)
*|S (30 1.1200 3.2350)
C92 30 VSS 1.47751e-16
Rmw100 MX69/M0#d 30 0.001000 $W=1000000
Rmw101 MX67/M0#s 30 0.001000 $W=1000000
*
*|NET 32 1.09403e-16
*|I (MX60/M0#d MX60/M0 d X 0 2.1195 0.8025)
*|I (MX58/M0#s MX58/M0 s X 0 1.8405 0.8025)
*|S (32 1.9800 0.8000)
C93 32 VSS 1.09403e-16
Rmw102 MX60/M0#d 32 0.001000 $W=1000000
Rmw103 MX58/M0#s 32 0.001000 $W=1000000
*
*|NET 34 1.40415e-16
*|I (MX76/M0#s MX76/M0 s X 0 1.8405 3.2375)
*|I (MM0#s MM0 s X 0 2.1195 3.2375)
*|S (34 1.9800 3.2350)
C94 34 VSS 1.40415e-16
Rmw104 MX76/M0#s 34 0.001000 $W=1000000
Rmw105 MM0#s 34 0.001000 $W=1000000
*
*|NET 36 1.08203e-16
*|I (MX65/M0#s MX65/M0 s X 0 2.9795 0.8025)
*|I (MX62/M0#d MX62/M0 d X 0 2.7005 0.8025)
*|S (36 2.8400 0.8000)
C95 36 VSS 1.08203e-16
Rmw106 MX65/M0#s 36 0.001000 $W=1000000
Rmw107 MX62/M0#d 36 0.001000 $W=1000000
*
*|NET 38 1.41532e-16
*|I (MX70/M0#d MX70/M0 d X 0 2.7005 3.2375)
*|I (MX68/M0#s MX68/M0 s X 0 2.9795 3.2375)
*|S (38 2.8400 3.2350)
C96 38 VSS 1.41532e-16
Rmw108 MX70/M0#d 38 0.001000 $W=1000000
Rmw109 MX68/M0#s 38 0.001000 $W=1000000
*
*|NET 40 1.00979e-16
*|I (MX63/M0#d MX63/M0 d X 0 3.8395 0.8025)
*|I (MX59/M0#s MX59/M0 s X 0 3.5605 0.8025)
*|S (40 3.7000 0.8000)
C97 40 VSS 1.00979e-16
Rmw110 MX63/M0#d 40 0.001000 $W=1000000
Rmw111 MX59/M0#s 40 0.001000 $W=1000000
*
*|NET 42 1.45302e-16
*|I (MX77/M0#s MX77/M0 s X 0 3.5605 3.2375)
*|I (MX71/M0#d MX71/M0 d X 0 3.8395 3.2375)
*|S (42 3.7000 3.2350)
C98 42 VSS 1.45302e-16
Rmw112 MX77/M0#s 42 0.001000 $W=1000000
Rmw113 MX71/M0#d 42 0.001000 $W=1000000
*
*Instance Section
*
MX74/M0	MX74/M0#d	MX74/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX66/M0	MX66/M0#d	MX66/M0#g	MX66/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX65/M0	MX65/M0#d	MX65/M0#g	MX65/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX64/M0	MX64/M0#d	MX64/M0#g	MX64/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX63/M0	MX63/M0#d	MX63/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX62/M0	MX62/M0#d	MX62/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX61/M0	MX61/M0#d	MX61/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX60/M0	MX60/M0#d	MX60/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX59/M0	MX59/M0#d	MX59/M0#g	MX59/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX58/M0	MX58/M0#d	MX58/M0#g	MX58/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX57/M0	MX57/M0#d	MX57/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX56/M0	MX56/M0#d	MX56/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX53/M0	MX53/M0#d	MX53/M0#g	MX53/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX77/M0	MX77/M0#d	MX77/M0#g	MX77/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX76/M0	MX76/M0#d	MX76/M0#g	MX76/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX75/M0	MX75/M0#d	MX75/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX73/M0	MX73/M0#d	MX73/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX72/M0	MX72/M0#d	MX72/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX71/M0	MX71/M0#d	MX71/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX70/M0	MX70/M0#d	MX70/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX69/M0	MX69/M0#d	MX69/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX68/M0	MX68/M0#d	MX68/M0#g	MX68/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX67/M0	MX67/M0#d	MX67/M0#g	MX67/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX55/M0	MX55/M0#d	MX55/M0#g	MX55/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX54/M0	MX54/M0#d	MX54/M0#g	MX54/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM0	VDD	MM0#g	MM0#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
